US06034252
5-(2,5-Dimethyl-3-thiophenyl)pentanoic acid (12 g, 56.6 mmol) is heated in 30 g of polyphosphoric acid at 140° C. for 2 hr. After the reaction mixture is cooled to room temperature, water is added to dissolve the residual PPA. The mixture is then extracted with ether and the ether layer is washed with water, aqueous NaOH and again with water. The ether layer is then dried over sodium sulfate and the solvent evaporated under reduced pressure to yield 1,3-dimethyl-5,6,7,8-tetrahydro-4 H-cyclohepta[1,2-c]thiophen-4-one as a dark oil (8 g, 73%). 1H NMR (CDCl3) 2.70 (t, J=6.0 Hz, 2 H), 2.64 (dd, J=5.0, 7.0 Hz, 2 H), 2.55 (s, 3 H), 2.28 (s, 3 H), 1.79 (m, 4 H).

reactant | 5-(2,5-Dimethyl-3-thiophenyl)pentanoic acid | 56.6 mmol, 12 g | CC=1SC(=CC1CCCCC(=O)O)C | C11H16O2S
solvent | water | O | H2O
product | 1,3-dimethyl-5,6,7,8-tetrahydro-4 H-cyclohepta[1,2-c]thiophen-4-one | 8 g, 73% | CC=1SC(=C2C1CCCCC2=O)C | C11H14OS
